US04704462
A solution of 6-Hydroxy-2-(3,4,5-trimethoxyphenyl)-5-propylbenzofuran (200 mg) in glacial acetic acid (1 ml) containing 10% palladium-on-charcoal was hydrogenated for 2.5 hours. The mixture was filtered and the filtrate was evaporated in vacuo to give 6-hydroxy-2-(3,4,5-trimethoxyphenyl)-5-propyl-2,3-dihydrobenzofuran (155 mg).

reactant | 6-Hydroxy-2-(3,4,5-trimethoxyphenyl)-5-propylbenzofuran | 200 mg | OC1=CC2=C(C=C(O2)C2=CC(=C(C(=C2)OC)OC)OC)C=C1CCC | C20H22O5
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 6-hydroxy-2-(3,4,5-trimethoxyphenyl)-5-propyl-2,3-dihydrobenzofuran | 155 mg | OC1=CC2=C(CC(O2)C2=CC(=C(C(=C2)OC)OC)OC)C=C1CCC | C20H24O5
